US09290468B2
Step 3: N-(4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]oxazol-6-yl)cyclopropanesulfonamide
To a solution of 5-(4-bromo-2-chlorophenyl)-7-(cyclopropylsulfonyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one (100 mg, 0.21 mmol) in THF (10 mL) was added potassium trimethylsilanolate (40 mg, 0.31 mmol). After stirring at room temperature for 1 h, the reaction was quenched with saturated NH4Cl (aq.). The aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic phase was washed with brine (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residual crude product was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1-3:1, v/v) and the product was obtained as a white solid (60 mg, 63.4% yield). 1H NMR (400 MHz, CDCl3): δ 8.10 (s, 1H), 7.97 (s, 1H), 7.40 (m, 2H), 7.31-7.26 (m, 1H), 6.81 (s, 1H), 6.40-6.36 (m, 1H), 6.23 (s, 1H), 5.86-5.72 (m, 1H), 5.25-5.13 (m, 2H), 2.85 (d, 2H), 1.30-1.22 (m, 2H), 1.15-1.20 (m, 2H). 8.17 (s, 1H), 7.97 (s, 1H), 7.49 (dd, 1H), 7.35 (s, 1H), 7.26 (dd, 1H), 6.17 (m, 1H), 5.44 (s, 1H), 2.57 (m, 1H), 1.06-1.08 (m, 2H), 1.00-1.01 (m, 2H). MS APCI (+) m/z: 461.7, [M+H].

reactant | 5-(4-bromo-2-chlorophenyl)-7-(cyclopropylsulfonyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one | 0.21 mmol, 100 mg | BrC1=CC(=C(C=C1)N1C(N(C2=CC3=C(N=CO3)C(=C21)F)S(=O)(=O)C2CC2)=O)Cl | C17H10BrClFN3O4S
reactant | potassium trimethylsilanolate | 0.31 mmol, 40 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]oxazol-6-yl)cyclopropanesulfonamide | 60 mg, 63.4% yield | FC1=C(C(=CC2=C1N=CO2)NS(=O)(=O)C2CC2)NC2=C(C=C(C=C2)Br)Cl | C16H12BrClFN3O3S
